US04666907
To a stirring solution of 500 g (2.34 mol) of 3H-phenothiazin-3-one in 12.5 liters of glacial acetic acid was added 1.25 kg of potassium dichromate. The mixture was stirred at room temperature for 1/2 hour. To this resulting mixture was then added 2.34 mol of a 1M solution of chlorine in glacial acetic acid dropwise over a period of 4 hours. The progress of the reaction was monitored by tlc to ensure no excess chlorine was added. After addition of chlorine was completed the mixture was stirred at room temperature for another 1/2 hour and was then poured into 120 liters of H2O with vigorous stirring. The 4-chloro-3H-phenothiazin-3-one which precipitated was allowed to settle overnight. The majority of the aqueous solution was siphoned off and discarded and the rest was filtered. The filtered precipitate was washed thoroughly with water and then rinsed with methanol and was allowed to dry to give 504 g crude 4-chloro-3H-phenothiazin-3-one which was recrystallized from toluene. m.p.: 221° C.

reactant | 3H-phenothiazin-3-one | 2.34 mol, 500 g | C1=CC(C=C2SC3=CC=CC=C3N=C12)=O | C12H7NOS
reactant | potassium dichromate | 1.25 kg | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[K+].[K+]
reactant | chlorine | ClCl | Cl2
reactant | H2O | 120 liters | O | H2O
solvent | acetic acid | 12.5 liters | C(C)(=O)O | C2H4O2
product | 4-chloro-3H-phenothiazin-3-one | 504 g | ClC=1C(C=CC2=NC3=CC=CC=C3SC12)=O | C12H6ClNOS
